US06288276B1
A 2-liter round-bottomed flask was charged with magnesium (12 g, 0.49 mol), methanol (285 ml), toluene (120 ml) and magnesium methoxide (10 ml solution of 7.4% by weight magnesium methoxide in methanol). The reaction mixture was heated to reflux and the magnesium dissolved. Para-nonyl phenol (112.4 g) was added in one portion to the reaction mixture. The flask was then rigged for a fractional vacuum distillation and an azeotrope of methanol/toluene was distilled off to an internal temperature of 70° C. at a pressure of 350 nun Hg. Glacial acetic acid (28.5 ml, 0.5 mole) was added to the reaction mixture over a 1 hour period while maintaining the reaction temperature at 70° C. and the pressure at 350 mm Hg. When the addition of glacial acetic acid was complete, solid paraformaldehyde (46 g, a commercial sample containing 5-7% by weight water) was added over a 105 minute period. The reaction mixture was maintained at a temperature of 65° C. and a pressure of 350 mm Hg. During the addition of paraformaldehyde and the volatile reaction by-products were continually removed. When the paraformaldehyde addition was complete, the reaction temperature was increased to 75° C. and maintained at that temperature for an additional 3 hours. Sulfuric acid (300 ml, 10% wow) was added to the reaction mixture, which was then stirred for 1 hour. After phase separation, the organic phase was washed twice with 200 ml portions of water. The washed organic phase was then separated, dried and rendered free of the solvent to yield crude-nonyl salicylaldehyde. A 67% yield was obtained.

reactant | magnesium | 0.49 mol, 12 g | [Mg] | Mg
reactant | magnesium methoxide | 10 ml | C[O-].[Mg+2].C[O-]
reactant | Para-nonyl phenol | 112.4 g | C(CCCCCCCC)C1=CC=C(C=C1)O | C15H24O
reactant | paraformaldehyde | C=O | CH2O
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | acetic acid | 0.5 mole, 28.5 ml | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
solvent | toluene | 120 ml | C1(=CC=CC=C1)C | C7H8
solvent | methanol | 285 ml | CO | CH4O
product | nonyl salicylaldehyde | 67% yield | C(CCCCCCCC)OC=1C(C=O)=CC=CC1 | C16H24O2
